US04536505
A solution of 2.0 g of 3-[2-(ethoxycarbonyl)ethyl]-N-(3-pyridyl)indole in 10 ml of methanol and 10 ml of 1N sodium hydroxide is refluxed for two hours, cooled, and evaporated. The residue is taken up in 10 ml of water, extracted with 10 ml of ether and adjusted to pH=6 with concentrated sulfuric acid. The resulting solid is filtered and dried to yield 3-(2-carboxyethyl)-N-(3-pyridyl)indole, m.p. 147°-149°.

reactant | 3-[2-(ethoxycarbonyl)ethyl]-N-(3-pyridyl)indole | 2.0 g | C(C)OC(=O)CCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H18N2O2
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | 3-(2-carboxyethyl)-N-(3-pyridyl)indole | C(=O)(O)CCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C16H14N2O2
